US07855294B2
1) (3R*,4S*)-1-benzyl-3-(dimethylsulfamoylamino-methyl)-4-o-tolyl-piperidine
39 μL of triethylamine and 18 μL of dimethylsulfamoyl chloride were added to chloroform (1 mL) solution of 41 mg of (3S*,4S*)-3-aminomethyl-1-benzyl-4-o-tolyl-piperidine obtained in Production Example 37, and stirred at room temperature for 2.5 hours. 39 μL of triethylamine and 18 μL of dimethylsulfamoyl chloride were further added to the reaction liquid, and stirred at room temperature for 1 hour. Still further, 39 μL of triethylamine and 18 μL of dimethylsulfamoyl chloride were added to the reaction liquid, and stirred at room temperature for 1 hour. Aqueous 1 M sodium hydroxide solution was added to the reaction liquid, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated saline water, and dried with anhydrous magnesium sulfate. The solvent was evaporated off under reduced pressure, and the residue was separated and purified through preparative thin-layer chromatography (chloroform/methanol=10/1) to obtain 27 mg of the entitled compound.

reactant | dimethylsulfamoyl chloride | 18 μL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | (3S*,4S*)-3-aminomethyl-1-benzyl-4-o-tolyl-piperidine | 41 mg | NC[C@H]1CN(CC[C@@H]1C1=C(C=CC=C1)C)CC1=CC=CC=C1 | C20H26N2
reactant | dimethylsulfamoyl chloride | 18 μL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | dimethylsulfamoyl chloride | 18 μL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | triethylamine | 39 μL | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 39 μL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 39 μL | C(C)N(CC)CC | C6H15N
product | (3R*,4S*)-1-benzyl-3-(dimethylsulfamoylamino-methyl)-4-o-tolyl-piperidine | 27 mg | C(C1=CC=CC=C1)N1C[C@@H]([C@H](CC1)C1=C(C=CC=C1)C)CNS(N(C)C)(=O)=O | C22H31N3O2S
